US07557103B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-{2,6-dimethyl-8-(1-ethylpropyl)-imidazo[1,2-b]pyridazin-3-yl}imidazo[1,2-b]pyridazine
Using a procedure analogous to Example 16B, 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.10 g, 0.29 mmol) and 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.064 g, 0.29 mmol) give the title compound (0.054 g, 0.13 mmol, 43%). 1H NMR (CDCl3): δ 0.91 (t, J=7.5 Hz, 6H), 0.92 (t, J=7.0 Hz, 6H), 1.80-1.93 (m, 8H), 2.43 (s, 6H), 2.47 (s, 6H), 3.36-3.44 (m, 2H), 6.68 (s, 2H). ES-MS (m/z): calcd for C26H36N6 (M+H)+: 433.6. found: 433.3.

reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.29 mmol, 0.10 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.29 mmol, 0.064 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C=C(N2)C | C13H19N3
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-{2,6-dimethyl-8-(1-ethylpropyl)-imidazo[1,2-b]pyridazin-3-yl}imidazo[1,2-b]pyridazine | 0.13 mmol, 0.054 g, 43% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2N=C(C=C1C(CC)CC)C)C | C26H36N6
